US07427631B2
3-[3-(benzylthio)-2-oxopropyl]-1,5,5-trimethylimidazolidine-2,4-dione
Benzyl mercaptan (256 μl, 2.2 mmol) was stirred with cesium carbonate (712 mg, 2.2 mmol) in dimethyl formamide (5 ml) at room temperature for 1 hour. 3-(3-bromo-2-oxopropyl)-1,5,5-trimethylimidazolidine-2,4-dione (552 mg, 1.99 mmol) prepared as in WO99/06361 was added and the mixture stirred 18 hours at room temperature. The reaction mixture was treated with water, extracted into ethyl acetate (3×25 ml), the organic phases combined, brine washed and dried. The product was purified by silica chromatography, eluting with 50% ethyl acetate/iso-hexane to give 300 mg product.

reactant | Benzyl mercaptan | 2.2 mmol, 256 μl | C(C1=CC=CC=C1)S | C7H8S
reactant | cesium carbonate | 2.2 mmol, 712 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-(3-bromo-2-oxopropyl)-1,5,5-trimethylimidazolidine-2,4-dione | 1.99 mmol, 552 mg | BrCC(CN1C(N(C(C1=O)(C)C)C)=O)=O | C9H13BrN2O3
reactant | water | O | H2O
solvent | dimethyl formamide | 5 ml | CN(C=O)C | C3H7NO
product | 3-[3-(benzylthio)-2-oxopropyl]-1,5,5-trimethylimidazolidine-2,4-dione | 300 mg | C(C1=CC=CC=C1)SCC(CN1C(N(C(C1=O)(C)C)C)=O)=O | C16H20N2O3S
